US07897560B2
A solution of 4-bromomethyl-N-(dodecanoyl)benzenesulfonamide (2.1 g, 4.86 mmol) in N,N-dimethylformamide (20 ml) was added dropwise to a mixture of 25% aqueous ammonia (4 ml) and N,N-dimethylformamide (10 ml). The reaction mixture was stirred for 1 h at room temperature. The solvent was removed in vacuo. The residue was dissolved in 1N aqueous sodium hydroxide (25 ml, 25 mmol) and tetrahydrofuran (25 ml). Di-tert-butyl dicarbonate (1.88 g, 8.63 mmol) was added. The reaction mixture was stirred for 16 h at room temperature. It was diluted with ethyl acetate (100 ml) and washed with a 10% aqueous solution of sodium hydrogensulphate (100 ml). The aqueous phase was extracted with ethyl acetate (2×50 ml). The combined organic layers were washed with a saturated aqueous solution of sodium hydrogencarbonate (100 ml) and dried over sodium sulphate. The solvent was removed in vacuo. The crude product was purified by flash chromatography on silica (40 g), using ethyl acetate/heptane (1:2) as eluent, to give 170 mg of (4-(dodecanoylsulfamoyl)benzyl)carbamic acid tert-butyl ester.

reactant | 4-bromomethyl-N-(dodecanoyl)benzenesulfonamide | 4.86 mmol, 2.1 g | BrCC1=CC=C(C=C1)S(=O)(=O)NC(CCCCCCCCCCC)=O | C19H30BrNO3S
reactant | ammonia | 4 ml | N | H3N
reactant | sodium hydroxide | 25 mmol, 1N, 25 ml | [OH-].[Na+]
reactant | Di-tert-butyl dicarbonate | 8.63 mmol, 1.88 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | N,N-dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (4-(dodecanoylsulfamoyl)benzyl)carbamic acid tert-butyl ester | 170 mg | C(C)(C)(C)OC(NCC1=CC=C(C=C1)S(NC(CCCCCCCCCCC)=O)(=O)=O)=O | C24H40N2O5S
